US07098295B2
N-(10-bromodecyl)-carbazole (8).
10 g (0.25 mol) sodium hydride (60%) was added in several portions into a solution of 30.6 g (0.20 mol) carbazole in 200 mL THF. Then the mixture was transferred into a funnel from which it was added dropwisely into a solution of 180 g (0.6 mol) dibromodecane in 500 mL THF at 70° C. and the mixture was refluxed for 48 h. After cooling, it was filtered. The filtrate was distilled in order to remove remaining dibromodecane. The residue was diluted with water and extracted with CH2Cl2. The organics was washed with brine and dried over anhydrous MgSO4 overnight. After removed the solvent by rotary evaporator, it was purified by silica chromography to give 31.6 g (41%, yield, mp 38˜40° C.) white solid product. 1H NMR (500 MHz, CDCl3), δ (ppm): 8.14 (2H, d), 7.51 (2H, d), 7.44 (2H, d), 7.26 (2H, d), 4.30 (2H, t), 3.41 (2H, t), 1.27˜1.90 (16H, m).

reactant | sodium hydride | 0.25 mol, 10 g | [H-].[Na+]
reactant | carbazole | 0.20 mol, 30.6 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | dibromodecane | 0.6 mol, 180 g | BrC(CCCCCCCCC)Br | C10H20Br2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-(10-bromodecyl)-carbazole | BrCCCCCCCCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C22H28BrN
